US06909003B2
To a suspension of sodium hydride (600 mg, 25.0 mmol) in tetrahydrofurane (20 ml) under argon is added at −5° C. diethyl acetoacetamide (3.93 g, 25.0 mmol) in tetrahydrofurane (2.0 ml), tetrahydrofurane (22.0 ml), butyllithium (n-heptane solution, 9.2 ml, 25.0 mmol), and a solution of 3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-N-methoxy-N-methyl-acrylamide (4.51 g, 12.0 mmol) in tetrahydrofurane (40 ml). After 1 h stirring at −5 to 0° C., acetic acid (4.4 g, 73.3 mmol), 25% aq. NaCl (10 ml), and water (10 ml) are added to the reaction mixture and the mixture is stirred vigorously for 10 min. The (upper) organic phase is washed with 25% aq. NaCl (2×20 ml), the water phases are extracted with ethylacetate (25 ml) and the combined organic phases filtered and evaporated to dryness under reduced pressure. The residue is purified by silica gel chromatography (hexane/ethyl acetate 1:1) to give (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid diethyl amide. Mp. 97-105° C., MS (ES): [M+H]+ 473.

reactant | sodium hydride | 25.0 mmol, 600 mg | [H-].[Na+]
reactant | diethyl acetoacetamide | 25.0 mmol, 3.93 g | C(C)C(C(CC(=O)N)=O)CC | C8H15NO2
reactant | butyllithium | 25.0 mmol, 9.2 ml | C(CCC)[Li]
reactant | 3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-N-methoxy-N-methyl-acrylamide | 12.0 mmol, 4.51 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1C=CC(=O)N(C)OC)C1=CC=C(C=C1)F | C23H21FN2O2
reactant | acetic acid | 73.3 mmol, 4.4 g | C(C)(=O)O | C2H4O2
reactant | NaCl | 10 ml | [Na+].[Cl-]
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 2.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 22.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid diethyl amide | C(C)N(C(CC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O)=O)CC | C29H29FN2O3
